US07777047B2
7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.0 g), 2-iodopropane (574 mg), potassium carbonate (1.13 g) and N,N-dimethylacetamide (5 ml) was stirred at room temperature for a week. The reaction mixture was diluted with ethyl acetate and saturated brine, and the organic layer was washed with aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, and filtrated. The filtrate was concentrated, and the residue was subjected to basic silica gel column chromatography, and eluted with ethyl acetate-hexane (2:1) mixture to give a solid. A mixture of this solid, oxalic acid dihydrate (605 mg), methanol (15 ml) and water (15 ml) was stirred at 100° C. for 3.5 days. The reaction mixture was allowed to cool to room temperature, and the obtained solid was collected by filtration, washed successively with water, hexane-diisopropyl ether mixture and hexane. The obtained solid was subjected to basic silica gel column chromatography, and eluted with ethyl acetate-hexane mixture (2:1) to give the title compound (340 mg, yield 34%) as an amorphous solid.

reactant | 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.0 g | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C(=O)N | C15H15N3O4S2
reactant | 2-iodopropane | 574 mg | IC(C)C | C3H7I
reactant | potassium carbonate | 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | oxalic acid dihydrate | 605 mg | O.O.C(C(=O)O)(=O)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | water | 15 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 340 mg, yield 34% | C(C)(C)N(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C=1SC=CC1 | C16H17N3O3S2
